US04758587
To a solution of 1.00 g of 1-hydroxy-2,4-dimethoxynaphthalene, prepared as shown in Preparations 7 and 8, in 50 ml of tetrahydrofuran was added 0.335 g of methyl isocyanate followed by 0.12 g of 4-dimethylaminopyridine. The solution was stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue dissolved in ethyl acetate, washed with dilute hydrochloric acid and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue chromatographed on silica gel, eluting with methylene chloride, giving 1-methylcarbamoyloxy-2,4-dimethoxynaphthalene, m.p. 131°-133° C.

reactant | 1-hydroxy-2,4-dimethoxynaphthalene | 1.00 g | OC1=C(C=C(C2=CC=CC=C12)OC)OC | C12H12O3
reactant | methyl isocyanate | 0.335 g | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-methylcarbamoyloxy-2,4-dimethoxynaphthalene | CNC(=O)OC1=C(C=C(C2=CC=CC=C12)OC)OC | C14H15NO4
